US06335409B1
(E)-2-(2-Methoxycarbonyl-vinyl)-naphthalen-6-yl 2-methyl-acrylate
0.89 g (3.9 mmol) of methyl (E)-3-(6-hydroxy-naphthalen-2-yl)-acrylate, a spatula tip of BHT and 0.66 ml of triethylamine were dissolved in 10 ml of THF. After cooling to 0° C. a solution of 0.39 ml (4.07 mmol) of methacryloyl chloride in 4 ml of THF was added dropwise within 30 minutes. The white suspension was stirred at 0° C. for a further hour and then partitioned in ether and water. The organic phase was back-washed twice with water and the aqueous phases were back-washed twice with diethyl ether. The combined organic phases were dried over magnesium sulphate, filtered over Celite and evaporated completely in a vacuum. The crude product was recrystallized from a mixture of 5 ml of hexane and 20 ml of toluene. This gave 0.92 g of white (E)-2-(2-methoxycarbonyl-vinyl)-naphthalen-6-yl 2-methyl-acrylate.

reactant | methyl (E)-3-(6-hydroxy-naphthalen-2-yl)-acrylate | 3.9 mmol, 0.89 g | OC=1C=C2C=CC(=CC2=CC1)/C=C/C(=O)OC | C14H12O3
reactant | triethylamine | 0.66 ml | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 4.07 mmol, 0.39 ml | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (E)-2-(2-Methoxycarbonyl-vinyl)-naphthalen-6-yl 2-methyl-acrylate | CC(C(=O)OC=1C=C2C=CC(=CC2=CC1)\C=C\C(=O)OC)=C | C18H16O4
